US09168254B2
The synthesis of N4-(4-([1,2,4]triazolo[1,5-a]pyridin-7-yloxy)-3-methylphenyl)-N6-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)quinazoline-4,6-diamine is described in WO 2007/059257. Generally, N4-(4-([1,2,4]triazolo[1,5-a]pyridin-7-yloxy)-3-methylphenyl)-N6-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)quinazoline-4,6-diamine may be prepared by coupling (E)-N′-(2-cyano-4-(3-(1-hydroxy-2-methylpropan-2-yl)thioureido)phenyl)-N,N-dimethylformimidamide with 4-([1,2,4]triazolo[1,5-a]pyridin-7-yloxy)-3-methylaniline in isopropyl acetate:acetic acid (65:35 v/v) at 45° C. to yield 1-(4-((4-([1,2,4]triazolo[1,5-a]pyridin-7-yloxy)-3-methylphenyl)amino)quinazolin-6-yl)-3-(1-hydroxy-2-methylpropan-2-yl)thiourea. The 1-(4-((4-([1,2,4]triazolo[1,5-a]pyridin-7-yloxy)-3-methylphenyl)amino)quinazolin-6-yl)-3-(1-hydroxy-2-methylpropan-2-yl)thiourea may then be agitated in tetrahydrofuran under basic conditions (2.5N NaOH), followed by the addition of p-toluenesulfonyl chloride. Water may then be charged to yield N4-(4-([1,2,4]triazolo[1,5-a]pyridin-7-yloxy)-3-methylphenyl)-N6-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)quinazoline-4,6-diamine as a mixture of polymorphs (generally a mixture containing one or more of Form C, Form G hemi-THF, Form G mono-THF, Form M or Form P). The final crystallizations or isolations will determine the polymorphic form, which are further detailed in the Examples section.

reactant | N4-(4-([1,2,4]triazolo[1,5-a]pyridin-7-yloxy)-3-methylphenyl)-N6-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)quinazoline-4,6-diamine | N=1C=NN2C1C=C(C=C2)OC2=C(C=C(C=C2)NC2=NC=NC1=CC=C(C=C21)NC=2OCC(N2)(C)C)C | C26H24N8O2
reactant | (E)-N′-(2-cyano-4-(3-(1-hydroxy-2-methylpropan-2-yl)thioureido)phenyl)-N,N-dimethylformimidamide | C(#N)C1=C(C=CC(=C1)NC(=S)NC(CO)(C)C)/N=C/N(C)C | C15H21N5OS
reactant | 4-([1,2,4]triazolo[1,5-a]pyridin-7-yloxy)-3-methylaniline | N=1C=NN2C1C=C(C=C2)OC2=C(C=C(N)C=C2)C | C13H12N4O
solvent | isopropyl acetate acetic acid | C(C)(=O)OC(C)C.C(C)(=O)O
product | 1-(4-((4-([1,2,4]triazolo[1,5-a]pyridin-7-yloxy)-3-methylphenyl)amino)quinazolin-6-yl)-3-(1-hydroxy-2-methylpropan-2-yl)thiourea | N=1C=NN2C1C=C(C=C2)OC2=C(C=C(C=C2)NC2=NC=NC1=CC=C(C=C21)NC(=S)NC(CO)(C)C)C | C26H26N8O2S
